US05424478
Crude 4-acetoxy-2-methyl-1-chloro-2-butene (194 g, Purity: 83.8%, 1 mol) was added to hexamethylenetetramine (168 g, 1.2 mol)/water (1 liter), and the mixture was stirred at 35° C. for 4 hours and then separated into aqueous and organic layers. 1,2-Dichloroethane (1 liter) was added to the aqueous layer, the mixture was subjected to reaction at 72° C. for 6 hours while adjusting the pH with 1N sulfuric acid. The 1,2-dichloroethane layer was separated, 1,2-dichloroethane (1 liter) was added, and the reaction was carried out again. The 1,2-dichloroethane layers were combined and concentrated. The residue was distilled under reduced pressure to give 4-acetoxy-2-methyl-2-buten-1-al (98 g, 69%). bp.0.2-0.3 : 58°-66° C.

reactant | 4-acetoxy-2-methyl-1-chloro-2-butene | 1 mol, 194 g | C(C)(=O)OCC=C(CCl)C | C7H11ClO2
reactant | hexamethylenetetramine | 1.2 mol, 168 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | sulfuric acid | 1N | S(O)(O)(=O)=O | H2O4S
solvent | water | 1 liter | O | H2O
product | 4-acetoxy-2-methyl-2-buten-1-al | 98 g, 69% | C(C)(=O)OCC=C(C=O)C | C7H10O3
